US07915250B2
2,4-Difluoro-6-[(2-fluoro-4-iodophenyl)amino]benzoic acid (100 mg, 0.25 mmol) was taken into DMF (1 mL) followed by addition of PyBOP (137 mg, 0.26 mmol) and the mixture was stirred for 15 minutes then NMM (60 μL, 0.5 mmol) and commercially available 1,1-dimethylethyl azetidin-3-ylcarbamate (43 mg, 0.25 mmol) were subsequently added. The mixture was allowed to stir for 12 hours at room temperature then partitioned with ethyl acetate and water. The organic phase was washed three times with additional water then brine and dried over anhydrous sodium sulfate. Filtration and concentration followed by silica gel flash chromatography of the residue using hexanes:ethyl acetate 3:1 as eluent afforded 1,1-dimethylethyl [1-({2,4-difluoro-6-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]carbamate (125 mg) as a colorless oil.

reactant | 2,4-Difluoro-6-[(2-fluoro-4-iodophenyl)amino]benzoic acid | 0.25 mmol, 100 mg | FC1=C(C(=O)O)C(=CC(=C1)F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | PyBOP | 0.26 mmol, 137 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | NMM | 0.5 mmol, 60 μL | CN1CCOCC1 | C5H11NO
reactant | 1,1-dimethylethyl azetidin-3-ylcarbamate | 0.25 mmol, 43 mg | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl [1-({2,4-difluoro-6-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]carbamate | 125 mg | FC1=C(C(=CC(=C1)F)NC1=C(C=C(C=C1)I)F)C(=O)N1CC(C1)NC(OC(C)(C)C)=O | C21H21F3IN3O3
